// Generated for: spectre
// Generated on: Oct 27 16:32:10 2024
// Design library name: FOLDED_CASCODE
// Design cell name: tb_stability
// Design view name: schematic
simulator lang=spectre
global 0
parameters R1 R2 IB w_M22_per_finger l_M22 nf_M22 w_M23_per_finger l_M23 nf_M23 w_M7_per_finger l_M7 nf_M7 w_M6_per_finger l_M6 nf_M6 w_M4_per_finger l_M4 nf_M4 w_M5_per_finger l_M5 nf_M5 w_M21_per_finger l_M21 nf_M21 w_M24_per_finger l_M24 nf_M24 w_M3_per_finger l_M3 nf_M3 w_M1_per_finger l_M1 nf_M1 w_M2_per_finger l_M2 nf_M2 w_M11_per_finger l_M11 nf_M11 w_M10_per_finger l_M10 nf_M10 w_M8_per_finger l_M8 nf_M8 w_M9_per_finger l_M9 nf_M9
include "/pdk/tsmc180bcd_g2/pdk/pdk_1p6m/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/pdk/tsmc180bcd_g2/pdk/pdk_1p6m/models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib
// Library name: FOLDED_CASCODE
// Cell name: OPP
// View name: schematic
subckt OPP INN INP VDD VOUT VSS
    M22 (net040 net032 VDD VDD) pch_mac l=l_M22 w=w_M22_per_finger*nf_M22 multi=1 nf=nf_M22 sigma=1 sd=540.0n ad=((nf_M22-int(nf_M22/2)*2)*(4.8e-07+((nf_M22-1)*5.4e-07)/2+0)+(nf_M22+1-int((nf_M22+1)/2)*2)*((nf_M22/2)*5.4e-07))*w_M22_per_finger as=((nf_M22-int(nf_M22/2)*2)*(4.8e-07+((nf_M22-1)*5.4e-07)/2+0)+(nf_M22+1-int((nf_M22+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M22/2-1)*5.4e-07+0+0))*w_M22_per_finger pd=(nf_M22-int(nf_M22/2)*2)*((4.8e-07+((nf_M22-1)*5.4e-07)/2+0)*2+(nf_M22+1)*w_M22_per_finger)+(nf_M22+1-int((nf_M22+1)/2)*2)*(((nf_M22/2)*5.4e-07)*2+nf_M22*w_M22_per_finger) ps=(nf_M22-int(nf_M22/2)*2)*((4.8e-07+((nf_M22-1)*5.4e-07)/2+0)*2+(nf_M22+1)*w_M22_per_finger)+(nf_M22+1-int((nf_M22+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M22/2-1)*5.4e-07+0+0)*2+(nf_M22+2)*w_M22_per_finger) nrd=(nf_M22-int(nf_M22/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M22-1))/w_M22_per_finger)+(nf_M22+1-int((nf_M22+1)/2)*2)*(2.7e-07/nf_M22/w_M22_per_finger) nrs=(nf_M22-int(nf_M22/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M22-1))/w_M22_per_finger)+(nf_M22+1-int((nf_M22+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M22-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M22_per_finger) sa=1/(1 / ((4.8e-07 + l_M22/2) + (5.4e-07 + l_M22)*(1-1)/3.5 ) )-(0.5*l_M22) sb=1/(1 / ((4.8e-07 + l_M22/2) + (5.4e-07 + l_M22)*(1-1)/3.5 ) )-(0.5*l_M22) sca=0 scb=0 scc=0 mismatchflag=1
    M23 (net032 net010 net040 VDD) pch_mac l=l_M23 w=w_M23_per_finger*nf_M23 multi=1 nf=nf_M23 sigma=1 sd=540.0n ad=((nf_M23-int(nf_M23/2)*2)*(4.8e-07+((nf_M23-1)*5.4e-07)/2+0)+(nf_M23+1-int((nf_M23+1)/2)*2)*((nf_M23/2)*5.4e-07))*w_M23_per_finger as=((nf_M23-int(nf_M23/2)*2)*(4.8e-07+((nf_M23-1)*5.4e-07)/2+0)+(nf_M23+1-int((nf_M23+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M23/2-1)*5.4e-07+0+0))*w_M23_per_finger pd=(nf_M23-int(nf_M23/2)*2)*((4.8e-07+((nf_M23-1)*5.4e-07)/2+0)*2+(nf_M23+1)*w_M23_per_finger)+(nf_M23+1-int((nf_M23+1)/2)*2)*(((nf_M23/2)*5.4e-07)*2+nf_M23*w_M23_per_finger) ps=(nf_M23-int(nf_M23/2)*2)*((4.8e-07+((nf_M23-1)*5.4e-07)/2+0)*2+(nf_M23+1)*w_M23_per_finger)+(nf_M23+1-int((nf_M23+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M23/2-1)*5.4e-07+0+0)*2+(nf_M23+2)*w_M23_per_finger) nrd=(nf_M23-int(nf_M23/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M23-1))/w_M23_per_finger)+(nf_M23+1-int((nf_M23+1)/2)*2)*(2.7e-07/nf_M23/w_M23_per_finger) nrs=(nf_M23-int(nf_M23/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M23-1))/w_M23_per_finger)+(nf_M23+1-int((nf_M23+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M23-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M23_per_finger) sa=1/(1 / ((4.8e-07 + l_M23/2) + (5.4e-07 + l_M23)*(1-1)/3.5 ) )-(0.5*l_M23) sb=1/(1 / ((4.8e-07 + l_M23/2) + (5.4e-07 + l_M23)*(1-1)/3.5 ) )-(0.5*l_M23) sca=0 scb=0 scc=0 mismatchflag=1
    M7 (VOUT net010 net26 VDD) pch_mac l=l_M7 w=w_M7_per_finger*nf_M7 multi=1 nf=nf_M7 sigma=1 sd=540.0n ad=((nf_M7-int(nf_M7/2)*2)*(4.8e-07+((nf_M7-1)*5.4e-07)/2+0)+(nf_M7+1-int((nf_M7+1)/2)*2)*((nf_M7/2)*5.4e-07))*w_M7_per_finger as=((nf_M7-int(nf_M7/2)*2)*(4.8e-07+((nf_M7-1)*5.4e-07)/2+0)+(nf_M7+1-int((nf_M7+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M7/2-1)*5.4e-07+0+0))*w_M7_per_finger pd=(nf_M7-int(nf_M7/2)*2)*((4.8e-07+((nf_M7-1)*5.4e-07)/2+0)*2+(nf_M7+1)*w_M7_per_finger)+(nf_M7+1-int((nf_M7+1)/2)*2)*(((nf_M7/2)*5.4e-07)*2+nf_M7*w_M7_per_finger) ps=(nf_M7-int(nf_M7/2)*2)*((4.8e-07+((nf_M7-1)*5.4e-07)/2+0)*2+(nf_M7+1)*w_M7_per_finger)+(nf_M7+1-int((nf_M7+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M7/2-1)*5.4e-07+0+0)*2+(nf_M7+2)*w_M7_per_finger) nrd=(nf_M7-int(nf_M7/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M7-1))/w_M7_per_finger)+(nf_M7+1-int((nf_M7+1)/2)*2)*(2.7e-07/nf_M7/w_M7_per_finger) nrs=(nf_M7-int(nf_M7/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M7-1))/w_M7_per_finger)+(nf_M7+1-int((nf_M7+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M7-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M7_per_finger) sa=1/(1 / ((4.8e-07 + l_M7/2) + (5.4e-07 + l_M7)*(1-1)/3.5 ) )-(0.5*l_M7) sb=1/(1 / ((4.8e-07 + l_M7/2) + (5.4e-07 + l_M7)*(1-1)/3.5 ) )-(0.5*l_M7) sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net018 net010 net28 VDD) pch_mac l=l_M6 w=w_M6_per_finger*nf_M6 multi=1 nf=nf_M6 sigma=1 sd=540.0n ad=((nf_M6-int(nf_M6/2)*2)*(4.8e-07+((nf_M6-1)*5.4e-07)/2+0)+(nf_M6+1-int((nf_M6+1)/2)*2)*((nf_M6/2)*5.4e-07))*w_M6_per_finger as=((nf_M6-int(nf_M6/2)*2)*(4.8e-07+((nf_M6-1)*5.4e-07)/2+0)+(nf_M6+1-int((nf_M6+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M6/2-1)*5.4e-07+0+0))*w_M6_per_finger pd=(nf_M6-int(nf_M6/2)*2)*((4.8e-07+((nf_M6-1)*5.4e-07)/2+0)*2+(nf_M6+1)*w_M6_per_finger)+(nf_M6+1-int((nf_M6+1)/2)*2)*(((nf_M6/2)*5.4e-07)*2+nf_M6*w_M6_per_finger) ps=(nf_M6-int(nf_M6/2)*2)*((4.8e-07+((nf_M6-1)*5.4e-07)/2+0)*2+(nf_M6+1)*w_M6_per_finger)+(nf_M6+1-int((nf_M6+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M6/2-1)*5.4e-07+0+0)*2+(nf_M6+2)*w_M6_per_finger) nrd=(nf_M6-int(nf_M6/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M6-1))/w_M6_per_finger)+(nf_M6+1-int((nf_M6+1)/2)*2)*(2.7e-07/nf_M6/w_M6_per_finger) nrs=(nf_M6-int(nf_M6/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M6-1))/w_M6_per_finger)+(nf_M6+1-int((nf_M6+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M6-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M6_per_finger) sa=1/(1 / ((4.8e-07 + l_M6/2) + (5.4e-07 + l_M6)*(1-1)/3.5 ) )-(0.5*l_M6) sb=1/(1 / ((4.8e-07 + l_M6/2) + (5.4e-07 + l_M6)*(1-1)/3.5 ) )-(0.5*l_M6) sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net28 net032 VDD VDD) pch_mac l=l_M4 w=w_M4_per_finger*nf_M4 multi=1 nf=nf_M4 sigma=1 sd=540.0n ad=((nf_M4-int(nf_M4/2)*2)*(4.8e-07+((nf_M4-1)*5.4e-07)/2+0)+(nf_M4+1-int((nf_M4+1)/2)*2)*((nf_M4/2)*5.4e-07))*w_M4_per_finger as=((nf_M4-int(nf_M4/2)*2)*(4.8e-07+((nf_M4-1)*5.4e-07)/2+0)+(nf_M4+1-int((nf_M4+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M4/2-1)*5.4e-07+0+0))*w_M4_per_finger pd=(nf_M4-int(nf_M4/2)*2)*((4.8e-07+((nf_M4-1)*5.4e-07)/2+0)*2+(nf_M4+1)*w_M4_per_finger)+(nf_M4+1-int((nf_M4+1)/2)*2)*(((nf_M4/2)*5.4e-07)*2+nf_M4*w_M4_per_finger) ps=(nf_M4-int(nf_M4/2)*2)*((4.8e-07+((nf_M4-1)*5.4e-07)/2+0)*2+(nf_M4+1)*w_M4_per_finger)+(nf_M4+1-int((nf_M4+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M4/2-1)*5.4e-07+0+0)*2+(nf_M4+2)*w_M4_per_finger) nrd=(nf_M4-int(nf_M4/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M4-1))/w_M4_per_finger)+(nf_M4+1-int((nf_M4+1)/2)*2)*(2.7e-07/nf_M4/w_M4_per_finger) nrs=(nf_M4-int(nf_M4/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M4-1))/w_M4_per_finger)+(nf_M4+1-int((nf_M4+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M4-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M4_per_finger) sa=1/(1 / ((4.8e-07 + l_M4/2) + (5.4e-07 + l_M4)*(1-1)/3.5 ) )-(0.5*l_M4) sb=1/(1 / ((4.8e-07 + l_M4/2) + (5.4e-07 + l_M4)*(1-1)/3.5 ) )-(0.5*l_M4) sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net26 net032 VDD VDD) pch_mac l=l_M5 w=w_M5_per_finger*nf_M5 multi=1 nf=nf_M5 sigma=1 sd=540.0n ad=((nf_M5-int(nf_M5/2)*2)*(4.8e-07+((nf_M5-1)*5.4e-07)/2+0)+(nf_M5+1-int((nf_M5+1)/2)*2)*((nf_M5/2)*5.4e-07))*w_M5_per_finger as=((nf_M5-int(nf_M5/2)*2)*(4.8e-07+((nf_M5-1)*5.4e-07)/2+0)+(nf_M5+1-int((nf_M5+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M5/2-1)*5.4e-07+0+0))*w_M5_per_finger pd=(nf_M5-int(nf_M5/2)*2)*((4.8e-07+((nf_M5-1)*5.4e-07)/2+0)*2+(nf_M5+1)*w_M5_per_finger)+(nf_M5+1-int((nf_M5+1)/2)*2)*(((nf_M5/2)*5.4e-07)*2+nf_M5*w_M5_per_finger) ps=(nf_M5-int(nf_M5/2)*2)*((4.8e-07+((nf_M5-1)*5.4e-07)/2+0)*2+(nf_M5+1)*w_M5_per_finger)+(nf_M5+1-int((nf_M5+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M5/2-1)*5.4e-07+0+0)*2+(nf_M5+2)*w_M5_per_finger) nrd=(nf_M5-int(nf_M5/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M5-1))/w_M5_per_finger)+(nf_M5+1-int((nf_M5+1)/2)*2)*(2.7e-07/nf_M5/w_M5_per_finger) nrs=(nf_M5-int(nf_M5/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M5-1))/w_M5_per_finger)+(nf_M5+1-int((nf_M5+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M5-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M5_per_finger) sa=1/(1 / ((4.8e-07 + l_M5/2) + (5.4e-07 + l_M5)*(1-1)/3.5 ) )-(0.5*l_M5) sb=1/(1 / ((4.8e-07 + l_M5/2) + (5.4e-07 + l_M5)*(1-1)/3.5 ) )-(0.5*l_M5) sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net039 net039 VSS VSS) nch_mac l=l_M21 w=w_M21_per_finger*nf_M21 multi=1 nf=nf_M21 sigma=1 sd=540.0n ad=((nf_M21-int(nf_M21/2)*2)*(4.8e-07+((nf_M21-1)*5.4e-07)/2+0)+(nf_M21+1-int((nf_M21+1)/2)*2)*((nf_M21/2)*5.4e-07))*w_M21_per_finger as=((nf_M21-int(nf_M21/2)*2)*(4.8e-07+((nf_M21-1)*5.4e-07)/2+0)+(nf_M21+1-int((nf_M21+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M21/2-1)*5.4e-07+0+0))*w_M21_per_finger pd=(nf_M21-int(nf_M21/2)*2)*((4.8e-07+((nf_M21-1)*5.4e-07)/2+0)*2+(nf_M21+1)*w_M21_per_finger)+(nf_M21+1-int((nf_M21+1)/2)*2)*(((nf_M21/2)*5.4e-07)*2+nf_M21*w_M21_per_finger) ps=(nf_M21-int(nf_M21/2)*2)*((4.8e-07+((nf_M21-1)*5.4e-07)/2+0)*2+(nf_M21+1)*w_M21_per_finger)+(nf_M21+1-int((nf_M21+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M21/2-1)*5.4e-07+0+0)*2+(nf_M21+2)*w_M21_per_finger) nrd=(nf_M21-int(nf_M21/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M21-1))/w_M21_per_finger)+(nf_M21+1-int((nf_M21+1)/2)*2)*(2.7e-07/nf_M21/w_M21_per_finger) nrs=(nf_M21-int(nf_M21/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M21-1))/w_M21_per_finger)+(nf_M21+1-int((nf_M21+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M21-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M21_per_finger) sa=1/(1 / ((4.8e-07 + l_M21/2) + (5.4e-07 + l_M21)*(1-1)/3.5 ) )-(0.5*l_M21) sb=1/(1 / ((4.8e-07 + l_M21/2) + (5.4e-07 + l_M21)*(1-1)/3.5 ) )-(0.5*l_M21) sca=0 scb=0 scc=0 mismatchflag=1
    M24 (net010 net039 VSS VSS) nch_mac l=l_M24 w=w_M24_per_finger*nf_M24 multi=1 nf=nf_M24 sigma=1 sd=540.0n ad=((nf_M24-int(nf_M24/2)*2)*(4.8e-07+((nf_M24-1)*5.4e-07)/2+0)+(nf_M24+1-int((nf_M24+1)/2)*2)*((nf_M24/2)*5.4e-07))*w_M24_per_finger as=((nf_M24-int(nf_M24/2)*2)*(4.8e-07+((nf_M24-1)*5.4e-07)/2+0)+(nf_M24+1-int((nf_M24+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M24/2-1)*5.4e-07+0+0))*w_M24_per_finger pd=(nf_M24-int(nf_M24/2)*2)*((4.8e-07+((nf_M24-1)*5.4e-07)/2+0)*2+(nf_M24+1)*w_M24_per_finger)+(nf_M24+1-int((nf_M24+1)/2)*2)*(((nf_M24/2)*5.4e-07)*2+nf_M24*w_M24_per_finger) ps=(nf_M24-int(nf_M24/2)*2)*((4.8e-07+((nf_M24-1)*5.4e-07)/2+0)*2+(nf_M24+1)*w_M24_per_finger)+(nf_M24+1-int((nf_M24+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M24/2-1)*5.4e-07+0+0)*2+(nf_M24+2)*w_M24_per_finger) nrd=(nf_M24-int(nf_M24/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M24-1))/w_M24_per_finger)+(nf_M24+1-int((nf_M24+1)/2)*2)*(2.7e-07/nf_M24/w_M24_per_finger) nrs=(nf_M24-int(nf_M24/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M24-1))/w_M24_per_finger)+(nf_M24+1-int((nf_M24+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M24-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M24_per_finger) sa=1/(1 / ((4.8e-07 + l_M24/2) + (5.4e-07 + l_M24)*(1-1)/3.5 ) )-(0.5*l_M24) sb=1/(1 / ((4.8e-07 + l_M24/2) + (5.4e-07 + l_M24)*(1-1)/3.5 ) )-(0.5*l_M24) sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net18 net039 VSS VSS) nch_mac l=l_M3 w=w_M3_per_finger*nf_M3 multi=1 nf=nf_M3 sigma=1 sd=540.0n ad=((nf_M3-int(nf_M3/2)*2)*(4.8e-07+((nf_M3-1)*5.4e-07)/2+0)+(nf_M3+1-int((nf_M3+1)/2)*2)*((nf_M3/2)*5.4e-07))*w_M3_per_finger as=((nf_M3-int(nf_M3/2)*2)*(4.8e-07+((nf_M3-1)*5.4e-07)/2+0)+(nf_M3+1-int((nf_M3+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M3/2-1)*5.4e-07+0+0))*w_M3_per_finger pd=(nf_M3-int(nf_M3/2)*2)*((4.8e-07+((nf_M3-1)*5.4e-07)/2+0)*2+(nf_M3+1)*w_M3_per_finger)+(nf_M3+1-int((nf_M3+1)/2)*2)*(((nf_M3/2)*5.4e-07)*2+nf_M3*w_M3_per_finger) ps=(nf_M3-int(nf_M3/2)*2)*((4.8e-07+((nf_M3-1)*5.4e-07)/2+0)*2+(nf_M3+1)*w_M3_per_finger)+(nf_M3+1-int((nf_M3+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M3/2-1)*5.4e-07+0+0)*2+(nf_M3+2)*w_M3_per_finger) nrd=(nf_M3-int(nf_M3/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M3-1))/w_M3_per_finger)+(nf_M3+1-int((nf_M3+1)/2)*2)*(2.7e-07/nf_M3/w_M3_per_finger) nrs=(nf_M3-int(nf_M3/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M3-1))/w_M3_per_finger)+(nf_M3+1-int((nf_M3+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M3-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M3_per_finger) sa=1/(1 / ((4.8e-07 + l_M3/2) + (5.4e-07 + l_M3)*(1-1)/3.5 ) )-(0.5*l_M3) sb=1/(1 / ((4.8e-07 + l_M3/2) + (5.4e-07 + l_M3)*(1-1)/3.5 ) )-(0.5*l_M3) sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net28 INP net18 VSS) nch_mac l=l_M1 w=w_M1_per_finger*nf_M1 multi=1 nf=nf_M1 sigma=1 sd=540.0n ad=((nf_M1-int(nf_M1/2)*2)*(4.8e-07+((nf_M1-1)*5.4e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*((nf_M1/2)*5.4e-07))*w_M1_per_finger as=((nf_M1-int(nf_M1/2)*2)*(4.8e-07+((nf_M1-1)*5.4e-07)/2+0)+(nf_M1+1-int((nf_M1+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M1/2-1)*5.4e-07+0+0))*w_M1_per_finger pd=(nf_M1-int(nf_M1/2)*2)*((4.8e-07+((nf_M1-1)*5.4e-07)/2+0)*2+(nf_M1+1)*w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(((nf_M1/2)*5.4e-07)*2+nf_M1*w_M1_per_finger) ps=(nf_M1-int(nf_M1/2)*2)*((4.8e-07+((nf_M1-1)*5.4e-07)/2+0)*2+(nf_M1+1)*w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M1/2-1)*5.4e-07+0+0)*2+(nf_M1+2)*w_M1_per_finger) nrd=(nf_M1-int(nf_M1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M1-1))/w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(2.7e-07/nf_M1/w_M1_per_finger) nrs=(nf_M1-int(nf_M1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M1-1))/w_M1_per_finger)+(nf_M1+1-int((nf_M1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M1_per_finger) sa=1/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1) sb=1/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1) sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net26 INN net18 VSS) nch_mac l=l_M2 w=w_M2_per_finger*nf_M2 multi=1 nf=nf_M2 sigma=1 sd=540.0n ad=((nf_M2-int(nf_M2/2)*2)*(4.8e-07+((nf_M2-1)*5.4e-07)/2+0)+(nf_M2+1-int((nf_M2+1)/2)*2)*((nf_M2/2)*5.4e-07))*w_M2_per_finger as=((nf_M2-int(nf_M2/2)*2)*(4.8e-07+((nf_M2-1)*5.4e-07)/2+0)+(nf_M2+1-int((nf_M2+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M2/2-1)*5.4e-07+0+0))*w_M2_per_finger pd=(nf_M2-int(nf_M2/2)*2)*((4.8e-07+((nf_M2-1)*5.4e-07)/2+0)*2+(nf_M2+1)*w_M2_per_finger)+(nf_M2+1-int((nf_M2+1)/2)*2)*(((nf_M2/2)*5.4e-07)*2+nf_M2*w_M2_per_finger) ps=(nf_M2-int(nf_M2/2)*2)*((4.8e-07+((nf_M2-1)*5.4e-07)/2+0)*2+(nf_M2+1)*w_M2_per_finger)+(nf_M2+1-int((nf_M2+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M2/2-1)*5.4e-07+0+0)*2+(nf_M2+2)*w_M2_per_finger) nrd=(nf_M2-int(nf_M2/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M2-1))/w_M2_per_finger)+(nf_M2+1-int((nf_M2+1)/2)*2)*(2.7e-07/nf_M2/w_M2_per_finger) nrs=(nf_M2-int(nf_M2/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M2-1))/w_M2_per_finger)+(nf_M2+1-int((nf_M2+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M2-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M2_per_finger) sa=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2) sb=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2) sca=0 scb=0 scc=0 mismatchflag=1
    M11 (net035 net022 VSS VSS) nch_mac l=l_M11 w=w_M11_per_finger*nf_M11 multi=1 nf=nf_M11 sigma=1 sd=540.0n ad=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*((nf_M11/2)*5.4e-07))*w_M11_per_finger as=((nf_M11-int(nf_M11/2)*2)*(4.8e-07+((nf_M11-1)*5.4e-07)/2+0)+(nf_M11+1-int((nf_M11+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0))*w_M11_per_finger pd=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11_per_finger)+(nf_M11+1-int((nf_M11+1)/2)*2)*(((nf_M11/2)*5.4e-07)*2+nf_M11*w_M11_per_finger) ps=(nf_M11-int(nf_M11/2)*2)*((4.8e-07+((nf_M11-1)*5.4e-07)/2+0)*2+(nf_M11+1)*w_M11_per_finger)+(nf_M11+1-int((nf_M11+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M11/2-1)*5.4e-07+0+0)*2+(nf_M11+2)*w_M11_per_finger) nrd=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11_per_finger)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07/nf_M11/w_M11_per_finger) nrs=(nf_M11-int(nf_M11/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M11-1))/w_M11_per_finger)+(nf_M11+1-int((nf_M11+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M11-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M11_per_finger) sa=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sb=1/(1 / ((4.8e-07 + l_M11/2) + (5.4e-07 + l_M11)*(1-1)/3.5 ) )-(0.5*l_M11) sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net036 net022 VSS VSS) nch_mac l=l_M10 w=w_M10_per_finger*nf_M10 multi=1 nf=nf_M10 sigma=1 sd=540.0n ad=((nf_M10-int(nf_M10/2)*2)*(4.8e-07+((nf_M10-1)*5.4e-07)/2+0)+(nf_M10+1-int((nf_M10+1)/2)*2)*((nf_M10/2)*5.4e-07))*w_M10_per_finger as=((nf_M10-int(nf_M10/2)*2)*(4.8e-07+((nf_M10-1)*5.4e-07)/2+0)+(nf_M10+1-int((nf_M10+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M10/2-1)*5.4e-07+0+0))*w_M10_per_finger pd=(nf_M10-int(nf_M10/2)*2)*((4.8e-07+((nf_M10-1)*5.4e-07)/2+0)*2+(nf_M10+1)*w_M10_per_finger)+(nf_M10+1-int((nf_M10+1)/2)*2)*(((nf_M10/2)*5.4e-07)*2+nf_M10*w_M10_per_finger) ps=(nf_M10-int(nf_M10/2)*2)*((4.8e-07+((nf_M10-1)*5.4e-07)/2+0)*2+(nf_M10+1)*w_M10_per_finger)+(nf_M10+1-int((nf_M10+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M10/2-1)*5.4e-07+0+0)*2+(nf_M10+2)*w_M10_per_finger) nrd=(nf_M10-int(nf_M10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M10-1))/w_M10_per_finger)+(nf_M10+1-int((nf_M10+1)/2)*2)*(2.7e-07/nf_M10/w_M10_per_finger) nrs=(nf_M10-int(nf_M10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M10-1))/w_M10_per_finger)+(nf_M10+1-int((nf_M10+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M10-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M10_per_finger) sa=1/(1 / ((4.8e-07 + l_M10/2) + (5.4e-07 + l_M10)*(1-1)/3.5 ) )-(0.5*l_M10) sb=1/(1 / ((4.8e-07 + l_M10/2) + (5.4e-07 + l_M10)*(1-1)/3.5 ) )-(0.5*l_M10) sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net022 net018 net036 VSS) nch_mac l=l_M8 w=w_M8_per_finger*nf_M8 multi=1 nf=nf_M8 sigma=1 sd=540.0n ad=((nf_M8-int(nf_M8/2)*2)*(4.8e-07+((nf_M8-1)*5.4e-07)/2+0)+(nf_M8+1-int((nf_M8+1)/2)*2)*((nf_M8/2)*5.4e-07))*w_M8_per_finger as=((nf_M8-int(nf_M8/2)*2)*(4.8e-07+((nf_M8-1)*5.4e-07)/2+0)+(nf_M8+1-int((nf_M8+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M8/2-1)*5.4e-07+0+0))*w_M8_per_finger pd=(nf_M8-int(nf_M8/2)*2)*((4.8e-07+((nf_M8-1)*5.4e-07)/2+0)*2+(nf_M8+1)*w_M8_per_finger)+(nf_M8+1-int((nf_M8+1)/2)*2)*(((nf_M8/2)*5.4e-07)*2+nf_M8*w_M8_per_finger) ps=(nf_M8-int(nf_M8/2)*2)*((4.8e-07+((nf_M8-1)*5.4e-07)/2+0)*2+(nf_M8+1)*w_M8_per_finger)+(nf_M8+1-int((nf_M8+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M8/2-1)*5.4e-07+0+0)*2+(nf_M8+2)*w_M8_per_finger) nrd=(nf_M8-int(nf_M8/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M8-1))/w_M8_per_finger)+(nf_M8+1-int((nf_M8+1)/2)*2)*(2.7e-07/nf_M8/w_M8_per_finger) nrs=(nf_M8-int(nf_M8/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M8-1))/w_M8_per_finger)+(nf_M8+1-int((nf_M8+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M8-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M8_per_finger) sa=1/(1 / ((4.8e-07 + l_M8/2) + (5.4e-07 + l_M8)*(1-1)/3.5 ) )-(0.5*l_M8) sb=1/(1 / ((4.8e-07 + l_M8/2) + (5.4e-07 + l_M8)*(1-1)/3.5 ) )-(0.5*l_M8) sca=0 scb=0 scc=0 mismatchflag=1
    M9 (VOUT net018 net035 VSS) nch_mac l=l_M9 w=w_M9_per_finger*nf_M9 multi=1 nf=nf_M9 sigma=1 sd=540.0n ad=((nf_M9-int(nf_M9/2)*2)*(4.8e-07+((nf_M9-1)*5.4e-07)/2+0)+(nf_M9+1-int((nf_M9+1)/2)*2)*((nf_M9/2)*5.4e-07))*w_M9_per_finger as=((nf_M9-int(nf_M9/2)*2)*(4.8e-07+((nf_M9-1)*5.4e-07)/2+0)+(nf_M9+1-int((nf_M9+1)/2)*2)*(4.8e-07+4.8e-07+(nf_M9/2-1)*5.4e-07+0+0))*w_M9_per_finger pd=(nf_M9-int(nf_M9/2)*2)*((4.8e-07+((nf_M9-1)*5.4e-07)/2+0)*2+(nf_M9+1)*w_M9_per_finger)+(nf_M9+1-int((nf_M9+1)/2)*2)*(((nf_M9/2)*5.4e-07)*2+nf_M9*w_M9_per_finger) ps=(nf_M9-int(nf_M9/2)*2)*((4.8e-07+((nf_M9-1)*5.4e-07)/2+0)*2+(nf_M9+1)*w_M9_per_finger)+(nf_M9+1-int((nf_M9+1)/2)*2)*((4.8e-07+4.8e-07+(nf_M9/2-1)*5.4e-07+0+0)*2+(nf_M9+2)*w_M9_per_finger) nrd=(nf_M9-int(nf_M9/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M9-1))/w_M9_per_finger)+(nf_M9+1-int((nf_M9+1)/2)*2)*(2.7e-07/nf_M9/w_M9_per_finger) nrs=(nf_M9-int(nf_M9/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(nf_M9-1))/w_M9_per_finger)+(nf_M9+1-int((nf_M9+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(nf_M9-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M9_per_finger) sa=1/(1 / ((4.8e-07 + l_M9/2) + (5.4e-07 + l_M9)*(1-1)/3.5 ) )-(0.5*l_M9) sb=1/(1 / ((4.8e-07 + l_M9/2) + (5.4e-07 + l_M9)*(1-1)/3.5 ) )-(0.5*l_M9) sca=0 scb=0 scc=0 mismatchflag=1
    IB (VDD net039) isource dc=IB type=dc
    R1 (net032 net010) resistor r=R1
    R2 (net018 net022) resistor r=R2
ends OPP
// End of subcircuit definition.
// Library name: FOLDED_CASCODE
// Cell name: tb_stability
// View name: schematic
C1 (net3 0) capacitor c=1p
V4 (net4 0) vsource dc=900.0m mag=1 type=sine freq=1M
IPRB1 (Out net3) iprobe
V1 (net2 0) vsource dc=1.8 type=dc
I9 (net3 net4 net2 Out 0) OPP
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
stb stb start=1 stop=1G probe=IPRB1 localgnd=0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
